Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.62353775179
[H:4].[O:1]=[C:2]=[C:3][C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10],-4.29303242281
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.61791812037
[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-8.03719430886
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])=[O:6].[O:7]=[C:8]([H:9])[C:10]([H:11])[H:12],-0.431912247999
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14],2.09200136
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10]>>[C:8][O:9][H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7],7.02387573796
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])[H:6],4.32691429055
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20].[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20],-4.28051188782
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7].[O:8]=[C:9]([H:10])[H:11],1.2957689547799998
[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.05457756374
[O:1]=[C:2]=[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2]=[C:3][C@:4]([H:5])([O:6])[C:8]([H:9])([H:10])[H:11],4.6546007647800005
[C:2]#[C:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:6]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])=[C:10]([H:11])[H:12],-2.36878786927
[C:4](#[C:5][O:6][H:7])[O:8][H:9].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3]/[C:4](=[C:5]/[O:6][H:7])[O:8][H:9],-3.85674837483
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.62753953831
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14],4.99862785002
[O:1]=[C:2]([C:3]([H:4])[H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2](=[C:3]([H:4])[H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[O:1],5.77081554667
[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10]>>[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[H:10].[O:1]=[O:2],-1.28378737888
[C:2](#[C:3][C:4]([H:5])[H:6])[O:7][H:8].[O:1]>>[O:1]=[C:2]([C:3]=[C:4]([H:5])[H:6])[O:7][H:8],-5.64177904121
[C:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10][H:11].[H:1][C:2]#[C:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])=[C:12][H:13],1.54094024104
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]1>>[H:11].[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:12]1,2.41907537824
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2],6.032939805800001
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],1.87061310051
[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-3.46767677774
[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-7.0605494798500015
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-4.58754930418
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:5]([H:6])([H:7])=[C:8]=[C:9]([H:10])[H:11].[O:1]1[C:2][C:3]1[H:4],0.63679461179
[H:1][C:2]#[C:3][C:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:5],3.39864856919
